US04237964
Example 1 is illustrated by FIG. 1. The thermally-insulated vessel B1 contains an emulsion whose continuous phase consists of 10 metric tons of water containing 1% by weight of a surface-active agent consisting of sodium lauryl sulfate; the dispersed phase of the emulsion is formed of 10 metric tons of stearic acid whose melting point is 69° C. The volume of the emulsion is 21.76 m3 at 80° C. and 20.62 m3 at 60° C. in view of the difference of the volumic mass of stearic acid.

reactant | sodium lauryl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | water | 10 metric tons | O | H2O
product | stearic acid | 10 metric tons | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
